US06413990B1
e) N-{2-[2-(4-Cyanophenyl)-ethyl]-1-methyl-benzimidazol-5-yl}-(4-ethoxycarbonyl-benzenesulphonamide)
N-{2-[2-(4-Cyanophenyl)-ethyl]-1-methyl-benzimidazol-5-yl}-(4-carboxy-benzenesulphonamide) (2.0 g, 4.3 mmol) is refluxed in 10 mL thionyl chloride for 1.5 h. The mixture is diluted with 50 mL ethyl acetate, the crystalline hydrochloride of the acid chloride is filtered off and washed with ethyl acetate/diethylether. The solid is suspended in 40 mL ethanol and slowly brought to reflux temperature. Half the ethanol is distilled off, the remainder is cooled and combined with ice water and made alkaline with aqueous potassium carbonate solution with stirring. It is diluted with water, the solid is filtered off and washed with water.

reactant | N-{2-[2-(4-Cyanophenyl)-ethyl]-1-methyl-benzimidazol-5-yl}-(4-carboxy-benzenesulphonamide) | 4.3 mmol, 2.0 g | C(#N)C1=CC=C(C=C1)CCC1=NC2=C(N1C)C=CC(=C2)NS(=O)(=O)C2=CC=C(C=C2)C(=O)O | C24H20N4O4S
reactant | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | thionyl chloride | 10 mL | S(=O)(Cl)Cl | Cl2OS
product | N-{2-[2-(4-Cyanophenyl)-ethyl]-1-methyl-benzimidazol-5-yl}-(4-ethoxycarbonyl-benzenesulphonamide) | C(#N)C1=CC=C(C=C1)CCC1=NC2=C(N1C)C=CC(=C2)NS(=O)(=O)C2=CC=C(C=C2)C(=O)OCC | C26H24N4O4S
